* C:\Users\gries\OneDrive\HM\2. Semester\EBAU\ProtokollBipolartransistor\SimulationSchaltzeiten.asc
Q1 N002 N004 0 0 2N3055
V§Uo N001 0 10
RL N001 N002 100
RB N004 N003 1k
V1 N003 0 PULSE(0 5 0 1n 1n 100u 200u)
.model NPN NPN
.model PNP PNP
.lib C:\Users\gries\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.5m
.backanno
.end
